US08980899B2
A solution of formamide (30 mL) and 5-amino-3-(4-nitrophenyl)-1H-pyrazole-4-carbonitrile (7.25 g, 32 mmol) was heated to 160° C. overnight under an argon atmosphere. The reaction was cooled, and 25 mL of H2O was added. The resulting solid was recovered by filtration and rinsed with cold H2O to afford 3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (5.9 g, 72% yield). ESI-MS m/z [M+H]+ found 257.5, calculated 257.2.

reactant | formamide | 30 mL | C(=O)N | CH3NO
reactant | 5-amino-3-(4-nitrophenyl)-1H-pyrazole-4-carbonitrile | 32 mmol, 7.25 g | NC1=C(C(=NN1)C1=CC=C(C=C1)[N+](=O)[O-])C#N | C10H7N5O2
reactant | H2O | 25 mL | O | H2O
product | 3-(4-nitrophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 5.9 g, 72% yield | [N+](=O)([O-])C1=CC=C(C=C1)C1=NNC2=NC=NC(=C21)N | C11H8N6O2
